US04324743
3.02 g. (10 mmoles) of carbobenzyloxy-L-glutamine sodium salt (Liebig's Ann. 640, 145 /1961/) are dissolved in 50 ml. of dimethyl formamide, 12 mmoles of sodium hydride are added in the form of an oily dispersion, and the mixture is heated for 2 hours under exclusion of air humidity. Thereafter a solution of 2.11 g. (10 mmoles) of sodium bromoethanesulfonate in 50 ml. of dimethyl formamide is added dropwise, and the mixture is heated for additional 2 hours. The mixture is evaporated in vacuo. The residue is extracted with ether, then the dry substance is dissolved in water, and the solution is passed through a column filled with Dowex 50 ion exchanger. The column is eluted with water. The eluate is evaporated in vacuo, and the residue is dried over solid potassium hydroxide. The obtained substance is subjected to catalytic hydrogenation as described in Example 5. The product is recrystallized from a mixture of ethanol and water. 1.55 g. of gamma-L-glutamyl-taurine are obtained.

reactant | carbobenzyloxy-L-glutamine sodium salt | 10 mmoles | [Na+].C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(N)=O)C(=O)[O-]
reactant | sodium hydride | 12 mmoles | [H-].[Na+]
reactant | sodium bromoethanesulfonate | 10 mmoles | BrC(C)S(=O)(=O)[O-].[Na+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | gamma-L-glutamyl-taurine | N[C@@H](CCC(=O)NCCS(=O)(=O)O)C(=O)O | C7H14N2O6S
